US06953857B2
(iii) 4-(4-{3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-benzoyl}-piperazin-1-ylmethyl)-benzonitrile
0.050 g (0.112 mmol) of {3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-phenyl}-piperazin-1-yl-methanone, hydrochloride salt was dissolved in 3 ml of DMF. 61.9 mg (0.448 mmol) of potassium carbonate was added to the solution, followed by 0.022 g (0.11 mmol) of 4-bromomethyl-benzonitrile. The reaction solution was shaken for 16 h at RT. The solvent was removed under reduced pressure, the residue was taken-up in ethyl acetate and the solution was washed twice with water and once with saturated aqueous sodium chloride. The organic phase was dried with magnesium sulphate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with n-heptane/ethyl acetate (1/1), and DCM/MeOH (10/1).

reactant | {3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-phenyl}-piperazin-1-yl-methanone, hydrochloride salt | 0.112 mmol, 0.050 g | Cl.ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C=CC1OC)C(=O)N1CCNCC1
reactant | potassium carbonate | 0.448 mmol, 61.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethyl-benzonitrile | 0.11 mmol, 0.022 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(4-{3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-benzoyl}-piperazin-1-ylmethyl)-benzonitrile | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)N2CCN(CC2)CC2=CC=C(C#N)C=C2)C=CC1OC | C28H27Cl2N3O3
